US06720324B2
TERT-BUTYL 4-[3-(ISOBUTYRYLAMINO)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE:
Into a solution of 4.00 g (16.0 mmol) of tert-butyl 4-(3-aminophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate and 5.60 mL (32.0 mmol) of diisopropylethylamine in 100 mL dichloromethane was slowly added 1.90 mL (19.0 mmol) of isobutyryl chloride. The reaction mixture was stirred at room temperature for 2 hours, washed with water, dried (MgSO4), and concentrated in vacuo. The residue was purified by column chromatography (silica, 50:46:3:1, hexanes:dichloromethane:methanol:isopropyl amine) to afford 2.90 g (52.0% yield) of the desired product: 1H NMR (400 MHz, CDCl3) δ 7.69 (s, 1 H), 7.34 (d, 1 H, J=7.8 Hz), 7.27 (t, 1H, J=7.8 Hz), 7.11 (d, 1H, J=7.8 Hz), 6.04 (s, 1H), 4.05 (s, 2H), 3.62 (apparent t, 2 H, J=4.9 Hz), 2.51 (m, 3H), 1.49 (s, 9H), 1.25 (d, 6H, J=7.4 Hz); ESMS m/e: 345.5 (M+H)+. Anal. Calc. for C20H28N2O3+0.175 CHCl3: C, 66.33; H, 7.77; N, 7.67. Found: C, 66.20; H, 7.41; N, 7.88

reactant | tert-butyl 4-(3-aminophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 16.0 mmol, 4.00 g | NC=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O2
reactant | diisopropylethylamine | 32.0 mmol, 5.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isobutyryl chloride | 19.0 mmol, 1.90 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | TERT-BUTYL 4-[3-(ISOBUTYRYLAMINO)PHENYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE | 2.90 g, 52.0% yield | C(C(C)C)(=O)NC=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O3
